US06262106B1
2-(3-Ethylphenyl)-2-adamantanol
A stirring mixture of magnesium turnings (0.89 g, 36.6 mmol) and iodine (catalytic) in dry THF (60 mL) was treated with 3-bromoethylbenzene (5 ML, 36.6 mmol), refluxed for 3 h, cooled to room temperature, treated with a solution of 2-adamantanone (5.0 g, 33.3 mmol) in dry THF (20 mL) and refluxed for 2 h. The mixture was cooled to room temperature, treated with 3-M HCl (20 mL), extracted with EtOAc (2×20 mL), the combined extracts were washed with water (10 mL), dried (MgSO4), concentrated in vacuo and purified by chromatography [SiO2; heptane-EtOAc (9:1)] to give the product (7.84 g, 92%) as a white solid: mp 63-65° C.; IR νmax (Nujol)/cm−1 3442, 3281, 2921, 2855, 1604, 1451, 1101, 1043, 1009, 803 and 708; NMR δH (400 MHz, CDCl3) 1.23 (3H, t, J 7.5 Hz), 1.61-1.70 (9H, m), 1.89 (1H, s), 2.38-2.41 (2H, m), 2.56 (2H,s), 2.65 (2H, q, J7.5 Hz), 3.46 (1H, s), 7.11 (1H, d, J7.5 Hz) and 7.24-7.36 (3H, m); Anal. Calcd for C18H24O: C, 84.32; H, 9.43. Found: C, 84.24; H, 9.28.

reactant | magnesium | 36.6 mmol, 0.89 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 3-bromoethylbenzene | 36.6 mmol | BrCCC=1C=CC=CC1 | C8H9Br
reactant | 2-adamantanone | 33.3 mmol, 5.0 g | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | HCl | 20 mL | Cl | ClH
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(3-Ethylphenyl)-2-adamantanol | 7.84 g, 92% | C(C)C=1C=C(C=CC1)C1(C2CC3CC(CC1C3)C2)O | C18H24O
